US07790714B2
(S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester (3.0 g) was dissolved in THF-methanol (4:1, 10 mL), 2 N lithium hydroxide solution (4.8 mL) was added, and the resulting reaction mixture was stirred at 0° C. for 5 h. The reaction mixture was neutralized with 1N HCl and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and the solvent was removed under reduced pressure to afford (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester (2.9 g). LC-MS (m/z) 614. The Boc group of (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester may be removed to provide the compound Intermediate C (“Intermediate C”).

reactant | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester | 3.0 g | COC(=O)C1N(CC=2C=C3O[C@H](C(N(C3=CC2C1)C)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)C(=O)OC(C)(C)C | C32H32Cl2N2O7
reactant | lithium hydroxide | 2 N, 4.8 mL | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF methanol | 10 mL | C1CCOC1.CO
product | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester | 2.9 g | C(C)(C)(C)OC(=O)N1CC=2C=C3O[C@H](C(N(C3=CC2CC1C(=O)O)C)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C31H30Cl2N2O7
